US05134147
4-(2,4-Difluorobenzoyl)piperidine
30 g of 1-acetyl-4-(2,4-difluorobenzoyl)piperidine are brought to reflux in 113 ml of 6N hydrochloric acid for 6 hours. The reaction medium is then concentrated and the residue obtained is crystallized in isopropanol. The expected compound is isolated after filtration.

reactant | 1-acetyl-4-(2,4-difluorobenzoyl)piperidine | 30 g | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)F)F)=O | C14H15F2NO2
solvent | hydrochloric acid | 6N, 113 ml | Cl | ClH
product | 4-(2,4-Difluorobenzoyl)piperidine | Yield: 83% | FC1=C(C(=O)C2CCNCC2)C=CC(=C1)F | C12H13F2NO
